US04171375
A stirred solution of 7-(5-oxocyclopent-1-enyl)heptanoic acid (16.5 g) in methanol (400 ml) was treated slowly with aqueous hydrogen peroxide solution (32 ml; 100 volume strength) and 4N sodium hydroxide solution (28 ml) at 5° to 10° C. and allowed to stand at room temperature for 18 hours. The solution was concentrated in vacuo (to a volume of about 100 ml) and water (100 ml) was then added to the residue. The mixture was washed with chloroform and the chloroform discarded. The aqueous solution was then acidified to pH 3 by means of glacial acetic acid. The mixture was extracted with chloroform and the chloroform extract was washed with water and dried over magnesium sulphate. The solvent was removed in vacuo to give (±)-7-(1,2-epoxy-5-oxocyclopentyl)heptanoic acid (16.0 g), pure enough for use in the preparation of (±)-7-(4-acetoxy-5-oxocyclopent-1-enyl)heptanoic acid without further purification.

reactant | 7-(5-oxocyclopent-1-enyl)heptanoic acid | 16.5 g | O=C1CCC=C1CCCCCCC(=O)O | C12H18O3
reactant | hydrogen peroxide | 32 ml | OO | H2O2
reactant | sodium hydroxide | 4N, 28 ml | [OH-].[Na+]
solvent | methanol | 400 ml | CO | CH4O
product | (±)-7-(1,2-epoxy-5-oxocyclopentyl)heptanoic acid | 16.0 g | O1C2(C1CCC2=O)CCCCCCC(=O)O | C12H18O4
